US09315521B2
To a 0° C. mixture of 4-(bromomethyl)-3-chloropyridine hydrobromide (7.2 mmol) and 2-sulfanyl-6-(trifluoromethyl)pyrimidin-4-ol (922 mg, 4.7 mmol) in absolute ethanol (40 mL) was added triethylamine (4.0 mL, 28.7 mmol). The mixture was stirred at room temperature overnight. The solid material was removed by filtration. Diethyl ether (2×50 mL) was used to wash the recovered solid. The solid material was removed by filtration. The filtrate was evaporated to dryness and then co-evaporated with ethyl acetate (1×25 mL). The solid residue was treated with water (100 mL). The solid product was recovered by filtration, washed with water (2×30 mL), diethyl ether (1×30 mL), and hexanes (2×30 mL), and was dried in vacuo to afford 2-{[(3-chloropyridin-4-yl)methyl]sulfanyl}-6-(trifluoromethyl)pyrimidin-4-ol (822 mg, 54%); 1H NMR (500 MHz, DMSO-d6): δ 4.50 (s, 2H), 6.66 (s, 1H), 7.58 (d, 1H, J=4.9 Hz), 8.47 (d, 1H, J=4.9 Hz), 8.64 (s, 1H); M+322.

reactant | 4-(bromomethyl)-3-chloropyridine hydrobromide | 7.2 mmol | Br.BrCC1=C(C=NC=C1)Cl
reactant | 2-sulfanyl-6-(trifluoromethyl)pyrimidin-4-ol | 4.7 mmol, 922 mg | SC1=NC(=CC(=N1)O)C(F)(F)F | C5H3F3N2OS
reactant | triethylamine | 28.7 mmol, 4.0 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 2-{[(3-chloropyridin-4-yl)methyl]sulfanyl}-6-(trifluoromethyl)pyrimidin-4-ol | 822 mg, 54% | ClC=1C=NC=CC1CSC1=NC(=CC(=N1)O)C(F)(F)F | C11H7ClF3N3OS
